Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10][H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11],-6.14752335304
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[O:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13],0.102121248561
[C:6]=[C:7]([H:8])[H:9].[H:1][C:2][O:3][C:4]#[C:5]>>[H:1][C:2][O:3][C:4][C:5]#[C:6][C:7]([H:8])[H:9],-5.6197943089
[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6][O:7][H:8]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][H:8],1.44046609559
[C:5]([H:6])[H:7].[O:1][O:2][C:3]([H:4])[C:8]([H:9])([H:10])[H:11]>>[O:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.20226743
[O:1]=[C:2]=[C:3][O:4][C:5][H:6]>>[H:6].[O:1]=[C:2]=[C:3][O:4][C:5],1.91448453301
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],1.28851973836
[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[O:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-0.615647973251
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.7433636301700002
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]1,-2.20170846843
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9])[O:10][H:11]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9])[O:10][H:11],3.85942794758
[C:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.67766795847
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:9]([H:10])[H:11],4.01322894945
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10][H:11],4.92039505496
[C:11][H:12].[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12],-7.21099608501
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7][H:8],6.59079875681
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:10]([H:11])([H:12])[H:13].[H:9],1.70476903893
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])=[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]1([C:7]([H:8])([H:9])[H:10])[C:11][C:12]1([H:13])[H:14],2.90750861
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C@@:3]1([H:4])[C:5](=[O:6])[C:11]1([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-0.8543094873810001
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3][C:9]([C:6]([C:4][H:5])([H:7])[H:8])([H:10])[H:11],5.41102524
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.173698601
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],2.2460006529700003
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],1.12904252445
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])=[C:6][H:7].[H:1][C:2]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],1.4503915962799998
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3](=[C:4])[O:8][C:9]([H:10])([H:11])[H:12],8.148137480239999
[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15],-6.23933666827
[H:14].[H:1][O:2][C:3](/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.26089339543
[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-2.56097472031
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]=[O:10]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-1.05256453169
